US08648099B2
a) 5-Cyclohex-1-enyl-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid methyl ester
5-Bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid methyl ester (500 mg, 1.59 mmol, CAN 1211589-51-3), potassium carbonate (660 mg, 4.78 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (65.0 mg, 79.6 μmol) were combined to give a light red solid. To this solid was added a solution of 2-(1-cyclohexen-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (331 mg, 1.59 mmol, CAN 141091-37-4) in DMF (12.0 ml), that had been thoroughly degassed and flushed with argon. The reaction mixture was heated to 80° C. and stirred for 48 h. Subsequently the reaction mixture was cooled to ambient temperature and poured into 75 mL brine and extracted with isopropyl acetate (2×150 mL). The organic layers were washed with brine (2×50 mL), combined and dried with Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, 50 g, 0% to 10%, n-heptane/isopropyl acetate) to give the title compound (0.43 g, 60%) as white solid; MS (EI) 316.3 (M+H)+.

reactant | 5-Bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid methyl ester | 1.59 mmol, 500 mg | COC(=O)C=1C=NC(=C(C1)Br)OCC(F)(F)F | C9H7BrF3NO3
reactant | potassium carbonate | 4.78 mmol, 660 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(1-cyclohexen-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.59 mmol, 331 mg | C1(=CCCCC1)B1OC(C(O1)(C)C)(C)C | C12H21BO2
solvent | DMF | 12.0 ml | CN(C)C=O | C3H7NO
product | 5-Cyclohex-1-enyl-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid methyl ester | 0.43 g, 60% | COC(=O)C=1C=NC(=C(C1)C1=CCCCC1)OCC(F)(F)F | C15H16F3NO3
